US07101891B2
5-{[3-(2-Chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-amino}-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
Add resin-bound tetrabutylammonium fluoride (TBAF) (22 g, 22.0 mmol, 1.6 mmol F/gram) to a solution of 5-(2-trimethylsilanyl-ethoxycarbonylamino)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (4.63 g, 11.0 mmol) in THF (150 mL). Reflux 48 H, cool to room temperature and concentrate to dryness. Dissolve in CHCl3. Wash 2× sat. aq NaHCO3, wash 2× brine, dry over Na2SO4, filter, and concentrate to dryness. Add Et3N (4.6 mL, 33.0 mmol) and DMAP (5 mg, cat.) to a solution of the residue (3.0 g, 11.0 mmol) in CH2Cl2 (100 mL). Add 3-(2-chloro-6-fluoro-phenyl)-3-methyl-isoxazole-4 carbonyl chloride (4.3 g, 15.4 mmol, Great Lakes Chemical) and stir overnight at room temperature. Add CHCl3. Wash 2× with sat. aq NaHCO3, wash 2× with brine, dry over Na2SO4, filter and concentrate to dryness. Purify by column chromatography using EtOAc/hexanes as eluant and concentrate to dryness to yield the title compound (2.6 g, 46%) as a yellow foam as a mixture of cis isomers. MS(IS) 510.2 (M+); Anal. Calc'd for C24H29ClFN3O4.0.05CHCl3: C, 55.99; H, 5.68; N, 8.14. Found: C, 55.91; H, 5.72; N, 8.03.

reactant | tetrabutylammonium fluoride | 22.0 mmol, 22 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-(2-trimethylsilanyl-ethoxycarbonylamino)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 11.0 mmol, 4.63 g | C(C)OC(=O)C1CN(CC(C1)NC(=O)OCC[Si](C)(C)C)C(=O)OC(C)(C)C | C19H36N2O6Si
reactant | Et3N | 33.0 mmol, 4.6 mL | CCN(CC)CC | C6H15N
reactant | 3-(2-chloro-6-fluoro-phenyl)-3-methyl-isoxazole-4 carbonyl chloride | 15.4 mmol, 4.3 g | ClC1=C(C(=CC=C1)F)C1(NOC=C1C(=O)Cl)C | C11H8Cl2FNO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{[3-(2-Chloro-6-fluoro-phenyl)-5-methyl-isoxazole-4-carbonyl]-amino}-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 2.6 g, 46% | C(C)OC(=O)C1CN(CC(C1)NC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl)C(=O)OC(C)(C)C | C24H29ClFN3O6
